US04225533
To a stirred solution of α-cyano-4-fluoro-3-phenoxybenzyl alcohol (437 mg., 1.8 mmol), 3-(n-pentyloxy)-2,2-dimethylcyclopropanecarboxylic acid (2.0 mmol) and 4-dimethylaminopyridine (0.65 mmol) in 20 ml of methylene chloride and 2 ml of DMF is added N,N'-dicyclohexylcarbodiimide (2 mmol). The reaction mixture is stirred, under nitrogen, for about two hours and then filtered and extracted with water. The aqueous phase is extracted with ether. The combined organic phases are washed with saturated aqueons sodium bocarbonate, water and saturated aqueous sodium chloride, dried over calcium sulfate and solvent evaporated. The crude product is chromatographed on a rotary chromatograph eluting with ether/hexane to yield α-cyano-4-fluoro-3-phenoxybenzyl 3-(n-pentyloxy)-2,2-dimethylcyclopropanecarboxylate.

reactant | α-cyano-4-fluoro-3-phenoxybenzyl alcohol | 1.8 mmol, 437 mg | C(#N)C(C1=CC(=C(C=C1)F)OC1=CC=CC=C1)O | C14H10FNO2
reactant | 3-(n-pentyloxy)-2,2-dimethylcyclopropanecarboxylic acid | 2.0 mmol | C(CCCC)OC1C(C1C(=O)O)(C)C | C11H20O3
reactant | N,N'-dicyclohexylcarbodiimide | 2 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 0.65 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | α-cyano-4-fluoro-3-phenoxybenzyl 3-(n-pentyloxy)-2,2-dimethylcyclopropanecarboxylate | C(CCCC)OC1C(C1C(=O)OC(C1=CC(=C(C=C1)F)OC1=CC=CC=C1)C#N)(C)C | C25H28FNO4
